US06982348B2
To a solution of 5-(2-phenyl-1,3-thiazol-4-yl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one (4.43 g, 9.79 mmol) in acetonitrile (50 ml) were successively added di-tert-butyl-dicarbonate (2.58 g, 11.8 mmol) and 4-(dimethylamino)pyridine (0.12 g, 0.98 mmol), and the mixture was stirred overnight at room temperature. The solvent was evaporated under reduced pressure, and the residue was purified by flash column chromatography (hexane:ethyl acetate:toluene=4:1:1) to give tert-butyl (4RS,5RS)-2-oxo-5-(2-phenyl-1,3-thiazol-4-yl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidine-3-carboxylate (3.40 g, 63%) to give a pale-yellow oil.

reactant | 5-(2-phenyl-1,3-thiazol-4-yl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one | 9.79 mmol, 4.43 g | C1(=CC=CC=C1)C=1SC=C(N1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C21H16F4N2O3S
reactant | di-tert-butyl-dicarbonate | 11.8 mmol, 2.58 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | 4-(dimethylamino)pyridine | 0.98 mmol, 0.12 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl (4RS,5RS)-2-oxo-5-(2-phenyl-1,3-thiazol-4-yl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidine-3-carboxylate | 3.40 g, 63% | O=C1OC(C(N1C(=O)OC(C)(C)C)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C=1N=C(SC1)C1=CC=CC=C1 | C26H24F4N2O5S
